Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
splenic artery aneursm
 
Major Surgical or Invasive Procedure:
___: angiogram via right groin, coil embolization of splenic 
artery aneurysm

 
History of Present Illness:
Mr. ___ is a ___
gentleman who presents with his wife for evaluation of a splenic
artery aneurysm.  Mr. ___ was first made aware of the
aneurysm approximately one year ago after an isolated incident 
of
hematuria.  A noncontrast CT scan at that time made reference to
its presence.  He has undergone a full urological workup, which
was negative for hematuria. He denied recurrent episodes of
hematuria.  A vascular consult by Dr. ___ was obtained in
___.  A repeat CTA (abd/pel) revealed evidence of a
2.1 cm saccular splenic artery aneurysm.

     Mr. ___ presents today in an asymptomatic nature.  He
denied acute or chronic abdominal pain and back pain. He does
have radicular pain secondary to spinal stenosis and bulging
discs, but was able to walk 1 mile.   The patient is a former
smoker with a 90 pack years. He quit smoking approximately ___
years ago.  His surgical history includes a radical 
prostatectomy
in the setting of prostate prostate cancer. He did not require
chemotherapy or radiation.

 
Past Medical History:
PAST MEDICAL HISTORY: splenic artery aneurysm, hypertension,
hypercholesterolemia, anxiety, depression, spinal stenosis.

PAST SURGICAL HISTORY: _____ fracture - ___, prostatectomy -
___.

 
Social History:
___
Family History:
Mother: hypertension, coronary artery disease and heart failure
Aunt:  CAD, Heart failure - pacemaker placement. 
 
Physical Exam:
At admission: 

VITAL SIGNS:  Blood pressure 142/80, heart rate 81, respiratory
rate 18, temperature 97.5, O2 saturation 97% on room air, height
72 inches, weight 225 pounds.  Pain ___.
GENERAL:  He was a well-appearing, well-nourished male in no
acute distress.
NEUROLOGIC:  He is alert and oriented x 3.
ABDOMEN:  Soft and nontender, bowel sounds in all four 
quadrants.
EXTREMITIES:  The patient had palpable femoral and pedal pulses
bilaterally.  There was no evidence of distal ischemia, lower
extremity edema or ulceration.

At discharge: 

GEN: NAD
HEENT: EOMI
CV: RRR
PULM: non-labored
ABD: non tender, nondistended, no rebound or guarding, right 
groin incision c/d/I with small hematoma but groin soft 
EXT: warm, dry palpable pulses bilateral lower extremities 
 
Pertinent Results:
CT Abdomen (with contrast) ___: 

  
IMPRESSION:  
  
Post splenic artery embolization, without splenic infarction. 

 
Brief Hospital Course:
Mr. ___ was admitted to ___ on ___ for planned 
treatment of his splenic artery aneurysm. He was taken to the 
Operating Room where he underwent angiogram via right femoral 
access with coil embolization of the splenic artery. For full 
details of the procedure, please refer to the separately 
dictated operative report. He was transferred to the PACU in 
stable condition and kept in house overnight for close 
monitoring. He had CT of the abdomen with contract on POD1 which 
showed no evidence of splenic infarction. Therefore, 
post-splenectomy vaccines were not administered. 

He was discharged home on ___ with instructions to follow-up 
in clinic with Dr. ___ in 1 month with duplex 
ultrasound. At the time of discharge, he had no pain, was 
tolerating a regular diet, ambulating independently, and voiding 
spontaneously. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. amLODIPine 10 mg PO DAILY 
2. Lactobacillus acidophilus 1 billion cell oral DAILY 
3. Rosuvastatin Calcium 10 mg PO QPM 
4. Imipramine 25 mg PO DAILY 
5. Vitamin D 1000 UNIT PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q8H:PRN Pain - Mild 
Do not exceed 4000 mg daily.  
2.  Docusate Sodium 100 mg PO BID  
3.  Senna 8.6 mg PO BID:PRN constipation  
4.  amLODIPine 10 mg PO DAILY  
5.  Imipramine 25 mg PO DAILY  
6.  Lactobacillus acidophilus 1 billion cell oral DAILY  
7.  Rosuvastatin Calcium 10 mg PO QPM  
8.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
splenic artery aneurysm

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

You were admitted for management of your splenic artery 
aneurysm. You were taken to the Operating Room where you 
underwent angiography with coil embolization of your splenic 
artery. You were monitored overnight and had a CT scan of your 
abdomen to evaluate your spleen. You had on infarction of you 
spleen. You have recovered well and are now ready for discharge. 
Please follow the instructions below to ensure a speedy 
recovery: 

MEDICATION:
• Continue all medications you were taking before surgery, 
unless otherwise directed
• You make take Tylenol or prescribed pain medications for any 
post procedure pain or discomfort

WHAT TO EXPECT:
• It is normal to feel tired and have a decreased appetite, your 
appetite will return with time.

ACTIVITIES:
• When you go home, you may walk and use stairs
• You may shower (let the soapy water run over groin incision, 
rinse and pat dry)
• Your incision may be left uncovered, unless you have small 
amounts of drainage from the wound, then place a dry dressing or 
band aid over the area 
• No heavy lifting, pushing or pulling (greater than 5 lbs) for 
1 week (to allow groin puncture to heal)
• You may resume your normal activities and distance walked as 
you can tolerate

CALL THE OFFICE FOR: ___
• Temperature greater than 101.5F for 24 hours
• New or increased drainage from incision or white, yellow or 
green drainage from incisions
• Bleeding from groin puncture site

SUDDEN, SEVERE BLEEDING OR SWELLING (Groin puncture site)
• Lie down, keep leg straight and have someone apply firm 
pressure to area for 10 minutes. If bleeding stops, call 
vascular office ___. If bleeding does not stop, call 
___ for transfer to closest Emergency Room. 

Thank you for allowing us to participate in your care. 

Sincerely, 

Your ___ Surgery Team 
 
Followup Instructions:
___